US04156011
(a) p-(p-Chlorophenoxy)-phenylthio-acetyl chloride
A mixture of 17.5 g (0.0595 mol) of p-(p-chlorophenoxy)-phenylthio-acetic acid (Code No. CRL 40,271) and of 21.6 ml (0.3000 mol) of thionyl chloride is heated under reflux for 30 minutes. After having taken up the reaction mixture in benzene, filtered the solution in the presence of charcoal and evaporated the solvent, 18.5 g of a limpid orange-yellow oil are obtained.

reactant | p-(p-chlorophenoxy)-phenylthio-acetic acid | 0.0595 mol, 17.5 g | ClC1=CC=C(OC2=CC=C(C=C2)CC(=S)O)C=C1 | C14H11ClO2S
reactant | thionyl chloride | 0.3000 mol, 21.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-(p-Chlorophenoxy)-phenylthio-acetyl chloride | ClC1=CC=C(OC2=CC=C(C=C2)CC(=S)Cl)C=C1 | C14H10Cl2OS
